US08865715B2
Preparation of 7-(1-benzyl-1H-1,2,3-triazol-4-yl)-5H-pyrrolo[2,3-b]pyrazine (“A1”)
1.4 141 mg (1.00 mmol) of potassium carbonate are added to a solution of 152 mg (0.40 mmol) of tert-butyl 7-(1-benzyltriazol-4-yl)pyrrolo[2,3-b]-pyrazine-5-carboxylate in 2 ml of methanol, and the mixture is stirred at room temperature for 1 hour. The reaction mixture is adsorbed onto kieselguhr and chromatographed on a silica-gel column with dichloromethane/methanol/ammonia water as eluent: 7-(1-benzyl-1H-1,2,3-triazol-4-yl)-5H-pyrrolo-[2,3-b]pyrazine (“A1”) as colourless crystals;

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 7-(1-benzyltriazol-4-yl)pyrrolo[2,3-b]-pyrazine-5-carboxylate | 0.40 mmol, 152 mg | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CN(C2=NC=CN=C21)C(=O)OC(C)(C)C | C20H20N6O2
solvent | methanol | 2 ml | CO | CH4O
product | 7-(1-benzyl-1H-1,2,3-triazol-4-yl)-5H-pyrrolo[2,3-b]pyrazine | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CNC2=NC=CN=C21 | C15H12N6
